US05382590
The procedure is analogous to that described in Example 81, but 0.6 g of 2-(2-amino-N-phenylacetamido)-N-isopropyl-N-phenylacetamide and 0.24 g of 3-methylphenyl isocyanate are used as the starting material. The crude product obtained is purified by chromatography on 30 g of silica (0.065-0.200 mm) contained in a column 1.5 cm in diameter [eluent: dichloromethane/ethyl acetate (80/20 by volume)], collecting 20 cm3 fractions. Fractions 6 to 10 are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. After recrystallization from diethyl ether, 0.3 g of N-isopropyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}-N-phenylacetamide melting at 170° C is obtained.

reactant | 2-(2-amino-N-phenylacetamido)-N-isopropyl-N-phenylacetamide | 0.6 g | NCC(=O)N(C1=CC=CC=C1)CC(=O)N(C1=CC=CC=C1)C(C)C | C19H23N3O2
reactant | 3-methylphenyl isocyanate | 0.24 g | CC=1C=C(C=CC1)N=C=O | C8H7NO
product | N-isopropyl 2-{2-[3-(3-methylphenyl)ureido]-N-phenylacetamido}-N-phenylacetamide | 0.3 g | C(C)(C)N(C(CN(C(CNC(=O)NC1=CC(=CC=C1)C)=O)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C27H30N4O3
